US07179830B2
0.55 g of 3,4-diaminothiophene dihydrobromide was added to a solution of 0.51 g of N-ethyl-N,N-diisopropylamine in 30 ml of anhydrous THF, the mixture was stirred at room temperature for approx. 5 minutes and the solution was then admixed with a mixture of 0.4 g of 2-chloro-4-methyl-3-thienyl isothiocyanate in 5 ml of THF. The mixture was stirred at room temperature for 3 hours and at 40° C. for 10 minutes. After it had been left to stand overnight, the solvent was distilled off, and the residue was treated with water and extracted with ethyl acetate. The insoluble fraction was filtered off, and the organic phase was washed with water and dried over sodium sulfate. After the solvent had been distilled off, the product was purified by column chromatography on silica gel using a mixture of 1 part by volume of toluene and 1 part by volume of ethyl acetate and, after the solvent had been distilled off, the N-(4-amino-3-thienyl)-N′-(2-chloro-4-methylthienyl)thiourea was obtained as a crystalline solid.

reactant | 3,4-diaminothiophene dihydrobromide | 0.55 g | Br.Br.NC1=CSC=C1N
reactant | N-ethyl-N,N-diisopropylamine | 0.51 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-chloro-4-methyl-3-thienyl isothiocyanate | 0.4 g | ClC=1SC=C(C1N=C=S)C | C6H4ClNS2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-(4-amino-3-thienyl)-N′-(2-chloro-4-methylthienyl)thiourea | NC=1C(=CSC1)NC(=S)NC1=C(SC=C1C)Cl | C10H10ClN3S3
